US06162809
11. 4-(2-Furylmethylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine
According to the procedure indicated in Example 1, reaction of 4-mercaptopyridine with 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride and sodium hydroxide solution, subsequent chromatography on silica gel (ethyl acetate/ethanol) and crystallization from diisopropyl ether gives the title compound as a colorless powder; m.p. 126-128° C.; yield 89% of theory.

reactant | 4-mercaptopyridine | SC1=CC=NC=C1 | C5H5NS
reactant | 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCC=1OC=CC1
reactant | sodium hydroxide | [OH-].[Na+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 4-(2-Furylmethylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine | yield 89% | O1C(=CC=C1)CSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | C17H16N2OS2
